US08022062B2
Add methyl 4-bromobutyrate (1.9 mL, 10.4 mmol) to a mixture of 3-tert-butoxycarbonyl-7-chloro-6-hydroxy-2,3,4,5-tetrahydro-benzo[d]azepine (310 mg, 1.0 mmol), DBU (0.23 mL, 1.6 mmol) and DMF (10 mL) at ambient temperature under nitrogen. Stir the reaction mixture for 16 h. Dilute with hexane/EtOAc (1:1, 60 mL), wash the mixture with 10% aqueous NaCl (4×25 mL), dry the organic layer over Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (19:1 to 2:3) to obtain 3-tert-butoxycarbonyl-7-chloro-6-(3-methoxycarbonyl-propyloxy)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (303 mg, 73%). MS (ES+) m/z: 398 (+H)+.

reactant | methyl 4-bromobutyrate | 10.4 mmol, 1.9 mL | BrCCCC(=O)OC | C5H9BrO2
reactant | 3-tert-butoxycarbonyl-7-chloro-6-hydroxy-2,3,4,5-tetrahydro-benzo[d]azepine | 1.0 mmol, 310 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)O | C15H20ClNO3
reactant | DBU | 1.6 mmol, 0.23 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | hexane EtOAc | 60 mL | CCCCCC.CCOC(=O)C
product | 3-tert-butoxycarbonyl-7-chloro-6-(3-methoxycarbonyl-propyloxy)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 303 mg, 73% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)OCCCC(=O)OC | C20H28ClNO5
